US05153210
5-[4-[2-[(3-Chloro-β-hydroxyphenethyl)amino]propyloxy]phenyl]-3,4-dihydro-6-methyl-2(1H)-pyridinone was prepared as a 1:1 mixture of diastereoisomers, m.pt. 99°-104° C., from 2-hydroxy-2-(3-chlorophenyl)ethanamine carbonate (0.58 g) and 3,4-dihydro-5-(4-acetonyloxyphenyl) 6-methyl-2(1H)-pyridinone (0.75 g) in an analogous manner to the compound described in Example 38.

reactant | 2-hydroxy-2-(3-chlorophenyl)ethanamine carbonate | 0.58 g | C(O)(O)=O.OC(CN)C1=CC(=CC=C1)Cl
reactant | 3,4-dihydro-5-(4-acetonyloxyphenyl) 6-methyl-2(1H)-pyridinone | 0.75 g | C(C(=O)C)OC1=CC=C(C=C1)C=1CCC(NC1C)=O | C15H17NO3
product | 5-[4-[2-[(3-Chloro-β-hydroxyphenethyl)amino]propyloxy]phenyl]-3,4-dihydro-6-methyl-2(1H)-pyridinone | ClC=1C=C(C(CNC(COC2=CC=C(C=C2)C=2CCC(NC2C)=O)C)O)C=CC1 | C23H27ClN2O3
